US08389511B2
4-[6-(Methoxycarbonyl)-2,2,7-trimethyl-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl]butanoic acid
To methyl 4-(4-tert-butoxy-4-oxobutyl)-2,2,7-trimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate (2.7 g) was added TFA (5 ml), and the mixture was stirred at room temperature for 2 hours. After the reaction was complete, the mixture was neutralized with a saturated aqueous sodium hydrogen carbonate solution, and the precipitated compound was extracted with ethyl acetate. The obtained ethyl acetate solution was washed with water and an aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated. The obtained residue (950 mg) was used in the subsequent reaction without further treatment.

reactant | methyl 4-(4-tert-butoxy-4-oxobutyl)-2,2,7-trimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | 2.7 g | C(C)(C)(C)OC(CCCN1C(C(OC2=C1C=C(C(=C2)C)C(=O)OC)(C)C)=O)=O | C21H29NO6
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-[6-(Methoxycarbonyl)-2,2,7-trimethyl-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl]butanoic acid | COC(=O)C=1C(=CC2=C(N(C(C(O2)(C)C)=O)CCCC(=O)O)C1)C | C17H21NO6
